US07834194B2
3-Benzo[b]thiophen-2-ylmethyl-1-cyclohexyl-pyrrolidin-2-one
Place 1-cyclohexyl-pyrrolidin-2-one (500 mg) in THF (30 mL) and cool to −78° C. Slowly add lithium diisopropylamide (LDA) (2M, 1.5 eq) and stir for 15 minutes. Add 2-bromomethyl-benzo[b]thiophene [J. Med. Chem. (1992) 1176-1183] (815 mg, 3.59 mmol) and stir for 3 hours. Quench with ammonium chloride and extract with dichloromethane. Dry over sodium sulfate, filter, and concentrate. Purify by silica gel (20-50% ethyl acetate in hexanes) to give 670 mg, 71% of the title compound as a white powder. MS (APCI-pos mode) m/z (rel intensity) 314 (100).

reactant | 1-cyclohexyl-pyrrolidin-2-one | 500 mg | C1(CCCCC1)N1C(CCC1)=O | C10H17NO
reactant | lithium diisopropylamide | 2M, 1.5 eq | C(C)(C)[N-]C(C)C.[Li+]
reactant | 2-bromomethyl-benzo[b]thiophene | 3.59 mmol, 815 mg | BrCC1=CC2=C(S1)C=CC=C2 | C9H7BrS
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 3-Benzo[b]thiophen-2-ylmethyl-1-cyclohexyl-pyrrolidin-2-one | 670 mg, 71% | S1C2=C(C=C1CC1C(N(CC1)C1CCCCC1)=O)C=CC=C2 | C19H23NOS
